US08431525B2
5-(4-Acetoxyphenyl)-3-benzyl-2-bis(4-nitrophenylsulfonyl)aminopyrazine (c-40) (151 mg, 219 μmol) was suspended in methanol (3 mL), and to this was added 10% (w/v) aqueous solution of sodium hydroxide aqueous (600 μL) while stirring at room temperature and then stirred at 65° C. for 30 min. To this were sequentially added methanol (1 mL) and 10% (w/v) aqueous solution of sodium hydroxide (400 μL) and stirred for an hour. After cooling to room temperature, to this was added 2 M hydrochloric to stop the reaction and extracted twice with ethyl acetate. The organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated under reduced pressure with a rotary evaporator. The residue was purified by column chromatography (8 g, n-hexane/ethyl acetate=3/2) to give 3-benzyl-5-(4-hydroxyphenyl)-2-[(4-nitrophenyl) sulfonylamino]pyrazine (coelentera-p-nosylamide) (c-36) as an orange solid (88.8 mg, 87.7%). Rf=0.13 (n-hexane/ethyl acetate=3/2). Mp. 176-177.5° C. (dec.). UV (MeOH) λmax (log ε) 338 (4.11), 276.5 (4.42). UV (pH 7.4 PB) λmax (log ε) 347 (4.15), 278.5 (4.49). 1H NMR (400 MHz, DMSO-d6) δ 4.28 (s, 2H), 6.81 (d, J=8.7 Hz, 2H), 7.17-7.25 (m, 1H), 7.29 (s, 4H), 7.81 (d, J=8.6 Hz, 2H), 8.15 (d, J=8.6 Hz, 2H), 8.40 (d, J=8.4 Hz, 2H), 8.52 (s, 1H), 9.81 (s, 1H), 11.25 (s, 1H). IR (KBr, cm−1) 633, 698, 748, 773, 827, 853, 970, 1084, 1121, 1231, 1263, 1277, 1350, 1395, 1501, 1514, 1528, 1611, 3227. HRMS (FAB+) m/z 463.1086 (M+H, C23H19N4O5S requires 463.1076).

reactant | 5-(4-Acetoxyphenyl)-3-benzyl-2-bis(4-nitrophenylsulfonyl)aminopyrazine | 219 μmol, 151 mg | C(C)(=O)OC1=CC=C(C=C1)C=1N=C(C(=NC1)N(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])CC1=CC=CC=C1 | C31H23N5O10S2
reactant | sodium hydroxide | 600 μL | [OH-].[Na+]
reactant | sodium hydroxide | 400 μL | [OH-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | methanol | 1 mL | CO | CH4O
product | 3-benzyl-5-(4-hydroxyphenyl)-2-[(4-nitrophenyl) sulfonylamino]pyrazine | 88.8 mg, 87.7% | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=C(C=C1)O)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C23H18N4O5S
